US08198299B2
A solution of 4-(4-cyano-tetrahydro-pyran-4-yl)-benzoic acid methyl ester (400 mg, 1.63 mmol), trimethylsilyl azide (TMSN3) (40 mg, 2.1 eq), and Bu2Sn(O) (40 mg, 1.0 eq) in DME was heated in the microwave at 150° C. for 4 hours. After the reaction was done the mixture was washed with water and extracted with EtOAc. The organic phase was dried and evaporated to give 4-[4-(1H-tetrazol-5-yl)-tetrahydro-pyran-4-yl]-benzoic acid methyl ester.

reactant | 4-(4-cyano-tetrahydro-pyran-4-yl)-benzoic acid methyl ester | 1.63 mmol, 400 mg | COC(C1=CC=C(C=C1)C1(CCOCC1)C#N)=O | C14H15NO3
reactant | trimethylsilyl azide | 40 mg, 2.1 eq | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | DME | COCCOC | C4H10O2
product | 4-[4-(1H-tetrazol-5-yl)-tetrahydro-pyran-4-yl]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C1(CCOCC1)C1=NN=NN1)=O | C14H16N4O3
